Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([C:6]([H:7])([H:8])[H:9])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:10][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.39397793996
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],3.8815270753199993
[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.56245309556
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[o:9][c:10]1[H:11]>>[H:1][C:2]=[C:10]([O:9][C:4](=[C:3])[C:5]([H:6])([H:7])[H:8])[H:11],4.83167274992
[H:12].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-5.11309803774
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.1126293190900025
[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.62093267098
[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[H:7]>>[C:2]([H:3])([H:4])[C:5](=[O:6])[H:7].[O:1],3.58832299485
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][H:8],3.84495119905
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10],3.5609440343300003
[C:8]([H:10])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:9]#[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.6556017281600002
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],2.14044710162
[H:1][O:2][O:3][C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][O:3],2.97098224129
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-1.89833458176
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C:4]([H:3])([H:8])[H:9].[O:5]=[C:6][H:7],3.0368358004400005
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],-8.30913527219
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.21021696829
[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[O:4][C:5][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.696001804610001
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-1.52198175754
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:4],1.9310196297
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.82441239324
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],1.23701590436
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],2.40515826209
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10].[O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-6.469773353019999
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.82628354511
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.65014452698
[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7]>>[C:3]#[C:4][H:5].[O:1]=[C:2][O:6][H:7],5.41277961131
[H:11].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11],-3.93485262677
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],4.64233082051
[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10].[H:11],4.713928587330001
